US06245773B1
4-(3,4-Difluorophenyl)-6-methoxymethyl-2-oxo-3-[3-(4-phenyl-4-(thiophen-2-yl)piperidin-1-yl)-propylcarbamoyl}-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid methyl ester.
To a solution of 6-(3,4-difluorophenyl)-4-methoxymethyl-2-oxo-3,6-dihydro-2H-pyrimidine-1,5-dicarboxylic acid 5-methyl ester 1-(4-nitrophenyl)ester (29 mg, 0.06 mmol) in 2 ml of CH2Cl2 was added 3-(4-phenyl-4-thiophen-2-yl-piperidin-1-yl)propylamine (20 mg, 0.07 mmol) and the resulting solution was stirred for 2 h at 25° C. The reaction mixture was concentrated in vacuo to provide an oil which was subjected to column chromatography over silica gel (5% MeOH/CHCl3) to yield 25 mg (64%) of the desired product which was converted to a HCl salt and recrystallized from EtOAC-Et2O to afford 22 mg of the product as a white solid: mp 157-159° C.; Anal. Calc. For C33H36F2N4O5S requires C, 58.6; H, 5.33; N, 8.29. Found: C, 57.3; H, 5.45; 7.90.

reactant | 6-(3,4-difluorophenyl)-4-methoxymethyl-2-oxo-3,6-dihydro-2H-pyrimidine-1,5-dicarboxylic acid 5-methyl ester 1-(4-nitrophenyl)ester | 0.06 mmol, 29 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1C(NC(=C(C1C1=CC(=C(C=C1)F)F)C(=O)OC)COC)=O | C21H17F2N3O8
reactant | 3-(4-phenyl-4-thiophen-2-yl-piperidin-1-yl)propylamine | 0.07 mmol, 20 mg | C1(=CC=CC=C1)C1(CCN(CC1)CCCN)C=1SC=CC1 | C18H24N2S
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-(3,4-Difluorophenyl)-6-methoxymethyl-2-oxo-3-[3-(4-phenyl-4-(thiophen-2-yl)piperidin-1-yl)-propylcarbamoyl}-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid methyl ester | 25 mg, 64% | COC(=O)C=1C(N(C(NC1COC)=O)C(NCCCN1CCC(CC1)(C=1SC=CC1)C1=CC=CC=C1)=O)C1=CC(=C(C=C1)F)F | C33H36F2N4O5S
